US04409238
In 15 ml of dry benzene were dissolved 1.8 g of α-(2,2-dichlorovinyl)isovaleric acid, followed by the addition of 3.5 g of thionyl chloride. The mixture was refluxed for 5 hours and, then, distilled to remove the low-boiling fraction. By the above procedure there was obtained α-(2,2-dichlorovinyl)isovaleroyl chloride. This chloride was dissolved in 20 ml of benzene, and 2.0 g of α-ethynyl-3-phenoxybenzyl alcohol were added. This was followed by the addition of 2.9 g of pyridine and the mixture was stirred at room temperature for 8 hours. The resultant reaction mixture was diluted with diethyl ether, washed with water and dilute aqueous hydrogen chloride and dried over anhydrous magnesium sulfate. The low-boiling fraction was then distilled off and the residue was chromatographed on a column of silica gel (benzene/n-hexane=1:1 v/v). By the above procedure there were obtained 2.6 g of α-ethynyl-3-phenoxybenzyl α-(2,2-dichlorovinyl)isovalerate (compound [2]) having the following properties [yield: 71% based on α-(2,2-dichlorovinyl)isovaleric acid].

reactant | α-(2,2-dichlorovinyl)isovaleric acid | 1.8 g | ClC(=CC(C(=O)O)C(C)C)Cl | C7H10Cl2O2
reactant | thionyl chloride | 3.5 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | α-(2,2-dichlorovinyl)isovaleroyl chloride | ClC(=CC(C(=O)Cl)C(C)C)Cl | C7H9Cl3O
